US04136189
25.1 g (0.1 mole) 2-(5-nitro-furfurylidene)-amino-benzimidazole are stirred in a mixture of 80 ml of dimethylformamide and 120 ml of methyl-ethyl-ketone, whereupon 12.6 g (0.1 mole) cyclohexylisocyanate are added. The reaction mixture is stirred for 6 hours at 40° C. to 45° C., whereupon next day it is cooled to 0° C., filtered off, washed with 20 ml of methyl-ethyl-ketone and dried in vacuo at 40° C. to 60° C. Thus 23 g of 1-cyclohexyl-carbamoyl-2-(5-nitro-furfurylidene)-amino-benzimidazole are obtained. Mp.: 198°-200° C.

reactant | 2-(5-nitro-furfurylidene)-amino-benzimidazole | 0.1 mole, 25.1 g | [N+](=O)([O-])C1=CC=C(C=C2N=C3C(=N2)C=CC=C3N)O1 | C12H8N4O3
reactant | cyclohexylisocyanate | 0.1 mole, 12.6 g | C1(CCCCC1)N=C=O | C7H11NO
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | methyl-ethyl-ketone | 120 ml | CC(=O)CC | C4H8O
product | 1-cyclohexyl-carbamoyl-2-(5-nitro-furfurylidene)-amino-benzimidazole | 23 g | C1(CCCCC1)N1C(NC2=C1C=CC(=C2N)C(N)=O)=CC2=CC=C(O2)[N+](=O)[O-] | C19H21N5O4
